US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-4-phenoxybenzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3dione in acetic acid was added 4-phenoxybenzohydrazide. After stirring at 100 ° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 4940 mg of the title compound (93%) as a yellow solid in 99.9% purity by HPLC (Rt: 5.13, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 4-phenoxybenzohydrazide | O(C1=CC=CC=C1)C1=CC=C(C(=O)NN)C=C1 | C13H12N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-4-phenoxybenzohydrazide | 4940 mg, 93% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H14IN3O3
